US04666916
Under nitrogen 425 ml of diethylaluminum cyanide (1.5M in toluene) is added to 93 g cis-dimethyl 1,1a,2,7b-tetrahydro-6-methoxybenzo[b]cyclopropa[d]pyran-1,1-dicarboxylate in 1250 ml toluene. After stirring 2 h at 25°, the reaction mixture is poured into 1250 ml 17.4% HCl. The aqueous phase is separated and extracted with three 100 ml portions of ethyl acetate and three 200 ml portions of CH2Cl2. The combined organic phases are washed with 500 ml 2N HCl, 500 ml brine, dried over Na2SO4, filtered and concentrated under reduced pressure to give trans(±)-dimethyl 2-(3,4-dihydro-6-methoxy-4-cyano-2H-[1]benzopyran-3-yl)-propanedioate.

reactant | diethylaluminum cyanide | 1.5M | [C-]#N.C(C)[Al+]CC
reactant | cis-dimethyl 1,1a,2,7b-tetrahydro-6-methoxybenzo[b]cyclopropa[d]pyran-1,1-dicarboxylate | 93 g | COC1=CC2=C(OC[C@H]3[C@@H]2C3(C(=O)OC)C(=O)OC)C=C1 | C15H16O6
reactant | HCl | 1250 ml | Cl | ClH
solvent | toluene | 1250 ml | C1(=CC=CC=C1)C | C7H8
product | trans(±)-dimethyl 2-(3,4-dihydro-6-methoxy-4-cyano-2H-[1]benzopyran-3-yl)-propanedioate | COC=1C=CC2=C([C@H]([C@@H](CO2)C(C(=O)OC)C(=O)OC)C#N)C1 | C16H17NO6
